US05998436
Synthesis of 1-(6-amino-3,5-difluoropyridin-2-yl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid
To a mixed solution of 6 ml of 4N hydrochloric acid and 6 ml of acetic acid was added 3.00 g of ethyl 8-chloro-1-[3,5-difluoro-6-(p-methoxybenzylamino)pyridin-2-yl]-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylate, and the mixture was heated under reflux with stirring for 16 hours. The solution was allowed to cool and stand, and the precipitate was collected by decantation, and washed by adding a small amount of distilled water, shaking, allowing to stand, and decanting. To the precipitate was added 10 ml of ethanol, and the mixture was heated under reflux with stirring for 1 hour and allowed to cool and stand, and the precipitate was collected by decantation. To this precipitate was again added 10 ml of chloroform, and the mixture was stirred under reflux condition for 1 hour and allowed to cool, and the precipitate was collected by filtration and washed with ethanol and diisopropylether successively to obtain 1.25 g of the title compound as a pale brown powder.

reactant | hydrochloric acid | 4N, 6 ml | Cl | ClH
reactant | ethyl 8-chloro-1-[3,5-difluoro-6-(p-methoxybenzylamino)pyridin-2-yl]-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylate | 3.00 g | ClC=1C(=C(C=C2C(C(=CN(C12)C1=NC(=C(C=C1F)F)NCC1=CC=C(C=C1)OC)C(=O)OCC)=O)F)F | C25H18ClF4N3O4
solvent | acetic acid | 6 ml | C(C)(=O)O | C2H4O2
product | 1-(6-amino-3,5-difluoropyridin-2-yl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 1.25 g | NC1=C(C=C(C(=N1)N1C=C(C(C2=CC(=C(C(=C12)Cl)F)F)=O)C(=O)O)F)F | C15H6ClF4N3O3
